US04783467
Ethyl N-trifluoroacetyl-N-(2-nitro-5-[2,4-dimethylimidazol-1-yl]benzyl)glycinate
A mixture of 2,4-dimethylimidazole (6.25 g), ethyl N-trifluoroacetyl-N-(5-fluoro-2-nitrobenzyl)glycinate (22.0 g) and sodium carbonate (6.62 g) was stirred and heated at 130° for 2 hours. Volatile material was removed from the cooled mixture in vacuo and the residue was partitioned between ethyl acetate (200 cm3) and water (100 cm3). The organic phase was washed with water (2×25 cm3), dried (MgSO4), and evaporated in vacuo to give an oil which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with ethyl acetate:methanol, 1:19. Combination and evaporation of the appropriate fractions gave an oil which crystallised on trituration with ether to afford the title compound, m.p. 172.5°-176° (3.1 g). Analysis %: Found: C,50.7; H,4.8; N,12.7; Calculated for C18H19F3N4O5 : C,50.5; H,4.5; N,13.1.

reactant | 2,4-dimethylimidazole | 6.25 g | CC=1NC=C(N1)C | C5H8N2
reactant | ethyl N-trifluoroacetyl-N-(5-fluoro-2-nitrobenzyl)glycinate | 22.0 g | FC(C(=O)N(CC(=O)OCC)CC1=C(C=CC(=C1)F)[N+](=O)[O-])(F)F | C13H12F4N2O5
reactant | sodium carbonate | 6.62 g | C([O-])([O-])=O.[Na+].[Na+]
product | Ethyl N-trifluoroacetyl-N-(2-nitro-5-[2,4-dimethylimidazol-1-yl]benzyl)glycinate | FC(C(=O)N(CC(=O)OCC)CC1=C(C=CC(=C1)N1C(=NC(=C1)C)C)[N+](=O)[O-])(F)F | C18H19F3N4O5
